US03954816
3-Hydroxypropylammonium 20-[N-(3-hydroxypropyl)carbamoyl]-9,11-eicosadiyne-1-carboxylate
A mixture of 9.4 g. (0.025 mole, 376.59) of monomethyl ester of 10,12-docosadiynedioic acid and 11.3 g. (0.12 mole, 75.11) of 3-hydroxypropylamine is briefly warmed, then kept overnight at room temperature. The product is slurried with ether, then recrystallized from an ether-ethanol mixture, obtaining a white solid, m.p. 91°-3°C.

reactant | 10,12-docosadiynedioic acid | C(CCCCCCCCC#CC#CCCCCCCCCC(=O)O)(=O)O | C22H34O4
reactant | 3-hydroxypropylamine | 0.12 mole | OCCCN | C3H9NO
solvent | ether | CCOCC | C4H10O
product | 3-Hydroxypropylammonium 20-[N-(3-hydroxypropyl)carbamoyl]-9,11-eicosadiyne-1-carboxylate | OCCCNC(=O)CCCCCCCCC#CC#CCCCCCCCCC(=O)[O-].OCCC[NH3+] | InChI=1S/C25H41NO4.C3H9NO/c27-23-19-22-26-24(28)20-17-15-13-11-9-7-5-3-1-2-4-6-8-10-12-14-16-18-21-25(29)30;4-2-1-3-5/h27H,5-23H2,(H,26,28)(H,29,30);5H,1-4H2
